US07435837B2
Treatment of 2-allyl-5-bromophenol (27.25 g, 0.128 mmol), with 3-chloroperoxybenzoic acid (66.20 g, 0.384 mol, 77%)) followed by potassium carbonate (44.18 g, 0.319 mol) generally according to the procedure described for Intermediate 9 provided (±)-(4-bromo-2,3-dihydro-1-benzofuran-2-yl)methanol as a yellow oil. Treatment of the oil with p-toluenesulfonyl chloride (15.65 g, 0.082 mol) generally according to the procedure described for Intermediate 10 afforded 24.7 g (78%) of (±)-(4-bromo-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate as a white solid. mp 90-91° C.; Anal. calcd. for C16H15BrO4S: C, 50.14; H, 3.94. Found: C, 50.09; H, 3.82.

reactant | 2-allyl-5-bromophenol | 0.128 mmol, 27.25 g | C(C=C)C1=C(C=C(C=C1)Br)O | C9H9BrO
reactant | 3-chloroperoxybenzoic acid | 0.384 mol, 66.20 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | potassium carbonate | 0.319 mol, 44.18 g | C([O-])([O-])=O.[K+].[K+]
reactant | (±)-(4-bromo-2,3-dihydro-1-benzofuran-2-yl)methanol | BrC1=CC=CC2=C1CC(O2)CO | C9H9BrO2
reactant | p-toluenesulfonyl chloride | 0.082 mol, 15.65 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
product | (±)-(4-bromo-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 24.7 g, 78% | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C(=CC=C2)Br | C16H15BrO4S
